US08859549B2
4-(4-methylphenylthio)phthalazin-1(2H)-one
A mixture of 4-chlorophthalazin-1(2H)-one (0.233 g, 1.29 mmol) and sodium 4-methylbenzenesulfinate (0.460 g, 2.58 mmol) in ethane-1,2-diol (0.29 mL, 5.19 mmol) and methyl-2-pyrrolidinone (2.6 mL) was microwaved at 230° C. for 30 minutes, diluted with EtOAc, washed with water and brine, dried (Na2SO4), filtered, and chromatographed (15% EtOAc/DCM) to give 0.260 g of impure title compound as a white solid: MS (APCI+) M/Z 269 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | 1.29 mmol, 0.233 g | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | sodium 4-methylbenzenesulfinate | 2.58 mmol, 0.460 g | CC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | ethane-1,2-diol | 5.19 mmol, 0.29 mL | C(CO)O | C2H6O2
solvent | methyl-2-pyrrolidinone | 2.6 mL | CN1C(CCC1)=O | C5H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-methylphenylthio)phthalazin-1(2H)-one | 0.260 g | CC1=CC=C(C=C1)SC1=NNC(C2=CC=CC=C12)=O | C15H12N2OS
